Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
transfer for NSTEMI
 
Major Surgical or Invasive Procedure:
Pharmacologic Stress Test

 
History of Present Illness:
___ w/ PMH of HTN, OSA, HLD, HFpEF, pulm HTN, presents as
transfer from ___ due to c/f NSTEMI. 

Patient is lovely.  She states that on the morning of
presentation she ate a blueberry pancakes with butter.  She had
been avoiding butter she was working on weight loss (has already
lost 50 pounds in the past year), but decided to indulge. 
Several minutes after finishing her pancakes, she felt a 
stabbing
substernal pain that radiated to her back.  It was constant and
persistent, was not worsened with exertion, not associated with
nausea or diaphoresis.  No shortness of breath.  Denies 
orthopnea
or PND, uses a BiPAP for her OSA.  She called her primary care
doctor after the pain had not resolved for several hours, was
instructed to go to the emergency department.  She went outside
to get the car, and after breathing and some fresh air, the pain
went away.  It has not returned since.

She went to ___. There, she had a CTA of her
chest which was negative for PE or dissection. EKG was 
reportedly
stable. Troponin was elevated. They transferred her here for
evaluation and admission to cardiology. On arrival, she reports
that she is completely pain-free. 

In the ED...  
- Initial vitals:  98.4 HR 61 BP 132/75 RR18 97% RA

- Exam: 
Con: Well appearing, in no acute distress
Resp: Breathing comfortably on RA. No incr WOB, CTAB.
CV: RRR. No murmurs. 
MSK: bilateral lower extremities without edema. Moves all
extremities to command.
Neuro: AOx3, speech fluent, no obvious facial asymmetry, moves
all 4 ext to command.
Psych: Normal mentation

- EKG: sinus, NA, QTc 489, TWIs anterior/lateral leads, c/w
priors

- Labs/studies notable for:  
   - trop 0.03
   - CBC, comp metabolic panel, coags all WNL 

- Patient was given: nothing administered

- Vitals on transfer:  58 115/81 16 95% RA
  
REVIEW OF SYSTEMS: Per HPI. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- OSA on bipap 
2. CARDIAC HISTORY  
- HFpEF
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Hypothyroidism
- Obesity 
- Pulmonary hypertension
 
Social History:
___
Family History:
Not discussed
 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 150 / 82 60 20 96 RA   
GENERAL: Well-developed, well-nourished. NAD. 
HEENT: sclera anicteric, MMM  
NECK: Unable to see JVP.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.  No
tenderness to palpation over sternum.
LUNGS: Appears slightly short of breath when she speaks,
decreased breath sounds at bilateral bases, otherwise
unremarkable.
ABDOMEN: Soft, NTND.  No epigastric tenderness, negative
___.
EXTREMITIES: Warm, well-perfused, trace pitting edema bilateral
lower extremities
NEURO: AOx3, face symmetric, moving all extremities, cannot walk
at baseline  

DISCHARGE PHYSICAL EXAM:
==========================
24 HR Data (last updated ___ @ 730)
    Temp: 98.0f (Tm 98.4), BP: 137/80 (99-166/53-102), HR: 64
(57-81), RR: 16 (___), O2 sat: 96% (93-97), O2 delivery: ra,
Wt: 198.5 lb/90.04 kg (198.5-200.1)    
GENERAL: Well-developed, well-nourished. NAD. 
HEENT: sclera anicteric, MMM  
NECK: JVP not elevated  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.  No
tenderness to palpation over sternum.
LUNGS: CTA b/l, no wheezes, rales or rhonchi
ABDOMEN: Soft, NTND.  No epigastric tenderness, negative
___.
EXTREMITIES: Warm, well-perfused, trace pitting edema bilateral
lower extremities
NEURO: AOx3, face symmetric, moving all extremities, cannot walk
at baseline  
 
Pertinent Results:
ADMISSION LABS:
=================
___ 01:45AM BLOOD WBC-7.6 RBC-3.95 Hgb-12.3 Hct-37.7 MCV-95 
MCH-31.1 MCHC-32.6 RDW-12.7 RDWSD-44.0 Plt ___
___ 01:45AM BLOOD Neuts-61.1 ___ Monos-9.9 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-4.61 AbsLymp-1.95 AbsMono-0.75 
AbsEos-0.17 AbsBaso-0.04
___ 01:45AM BLOOD Plt ___
___ 01:45AM BLOOD ___ PTT-27.1 ___
___ 01:45AM BLOOD Glucose-108* UreaN-11 Creat-0.7 Na-143 
K-3.6 Cl-107 HCO3-27 AnGap-9*
___ 08:50AM BLOOD ALT-14 AST-19 LD(LDH)-172 CK(CPK)-74 
AlkPhos-81 TotBili-0.6
___ 01:45AM BLOOD cTropnT-0.03*
___ 08:50AM BLOOD CK-MB-4 cTropnT-0.02*
___ 08:50AM BLOOD Lipase-42
___ 01:45AM BLOOD Calcium-9.4 Phos-3.2 Mg-2.1

KEY IMAGING/PROCEDURES:
=======================
___ CTA Chest (___):
FINDINGS:  HEART AND VASCULATURE: Pulmonary vasculature is well 
opacified to the subsegmental level without filling
defect to indicate a pulmonary embolus.  The main pulmonary 
artery is mildly dilated up to 3.5 cm which could be seen
in the setting of pulmonary hypertension.  The thoracic aorta is 
normal in caliber without evidence of dissection or
intramural hematoma.  The heart, pericardium, and great vessels 
are within normal limits apart from an unchanged trace
pericardial effusion (compared to the CT urogram dated ___.

AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar lymphadenopathy is present.  No mediastinal mass.

PLEURAL SPACES: No pleural effusion or pneumothorax.

LUNGS/AIRWAYS: Lungs are clear without masses or areas of 
parenchymal opacification.  The airways are patent to the
level of the segmental bronchi bilaterally.

BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality.

ABDOMEN:  Included portion of the upper abdomen is unremarkable.

BONES: No suspicious osseous abnormality is seen.? Unchanged 
compression deformity of T12.

IMPRESSION:  No evidence of pulmonary embolism or aortic 
abnormality.

___ PMIBI:
STRESS:
INTERPRETATION: This ___ year old woman with a h/o HTN, HLD, 
HFpEF 
and question of NSTEMI was referred to the lab for evaluation of 

atypical chest discomfort. The patient was administered 0.4 mg 
of 
regadenoson IV over 20 seconds. At 5 minutes post-infusion the 
patient 
reported a ___ chest tightness/pressure, which improved and 
susequently 
resolved by 10 minutes of recovery following the administration 
of 60 
mg/3 mL caffeine IV. In the setting of baseline prominent 
voltage with 
repolarization abnormalities, there were no significant ST 
segment 
changes seen during the infusion or in recovery. The rhythm was 
sinus 
with rare isolated APBs. Resting systolic and diastolic 
hypertension 
with an appropriate blood pressure and heart rate response to 
the 
infusion and in recovery. 
  
IMPRESSION: Atypical type symptoms in the absence of significant 
ST 
segment changes. Baseline systolic and diastolic hypertension. 
Appropriate hemodynamic response to vasodilator stress. Nuclear 
report 
sent separately. 

NUCLEAR:
SUMMARY FROM THE EXERCISE LAB: 
For pharmacologic stress 0.4 mg of regadenoson (0.08 mg/ml) was 
infused 
intravenously over 20 seconds followed by a saline flush. 
  
FINDINGS:  Left ventricular cavity size is 108 mL. 
  
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the 
left ventricular myocardium. 
  
Gated images reveal normal wall motion. 
  
The calculated left ventricular ejection fraction is 60%. 
  
IMPRESSION: 1. Normal myocardial perfusion study. 2.  Calculated 
left 
ventricular ejection fraction is 60%. 

DISCHARGE LABS:
=================
___ 06:33AM BLOOD WBC-6.6 RBC-3.79* Hgb-11.9 Hct-37.2 
MCV-98 MCH-31.4 MCHC-32.0 RDW-12.7 RDWSD-45.8 Plt ___
___ 06:33AM BLOOD Plt ___
___ 06:33AM BLOOD Glucose-90 UreaN-14 Creat-0.7 Na-145 
K-3.7 Cl-107 HCO3-26 AnGap-12
___ 06:33AM BLOOD Calcium-9.3 Phos-3.8 Mg-1.___ F w hx hypertension, HFpEF, OSA ?on bipap, hypothyroidism, 
who had episode sudden onset chest pain, with slightly elevated 
trops, admitted w c/f NSTEMI. 

# CORONARIES: normal on last cath (___) 
# PUMP: ___ 
# RHYTHM: sinus

ACUTE ISSUES
# Chest pain 
# ___ 
Patient presenting with atypical chest pain unrelated to 
exertion that lasted for ~5 hours before spontaneously 
resolving. Chest pain started after eating pancakes with butter. 
She has known diastolic dysfunction, known clean coronaries (as 
of ___. Trops very slightly elevated 003 -> 0.02 at 
___ (from .016, .049 at OSH), EKG without any acute ST 
changes. S/p ASA loading at ___. CTA at OSH negative for 
PE or aortic dissection. Her liver function tests were normal. 
She had pharmacologic stress test on ___ which was normal 
with EF 60%. She was continued on home beta-blocker and daily 
Aspirin. She did not have any recurrence of chest pain while 
hospitalized.

CHRONIC ISSUES
# Hypothyroidism - cont home levothyroxine 150mcg daily

TRANSITIONAL ISSUES:
[ ] Ensure ongoing resolution of chest pain as outpatient
 -- Unlikely to be cardiac in origin, consider other etiologies 
for atypical chest pain like musculoskeletal or GI especially 
given its association with eating.
[ ] Was supposed to get repeat TTE while inpatient, but did not 
have performed. Can consider repeat TTE as outpatient as 
clinically indicated although patient did have the pharmacologic 
stress test as above.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Levothyroxine Sodium 150 mcg PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Levothyroxine Sodium 150 mcg PO DAILY  
3.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-ST-Elevation Myocardial Infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were 
experiencing chest pain and were found to have an abnormal blood 
test concerning for injury to the heart.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You initially had a CT scan that did not demonstrate a blood 
clot in your lungs or a rupture of your aorta before you were 
transferred. 
- While you were here, you had a pharmacologic stress test, 
which was normal.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___